US09376392B2
A mixture of 5-bromo-7-methylquinolin-6-yl trifluoromethanesulfonate (230 mg, 0.62 mmol), tributyl(vinyl)stannane (200 μL, 0.68 mmol), lithium chloride (78 mg, 1.86 mmol) and PdCl2(PPh3)2 (43 mg) in DMF (10 mL) was heated at 80° C. for 16 hours, and then the volatile component was removed in vacuo. The residue was dissolved in ethyl acetate (100 mL), washed with NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (hexanes/EtOAc) to provide 5-bromo-7-methyl-6-vinylquinoline. LCMS-ESI+ (m/z): 248.2, 250.2 (M+H)+.

reactant | 5-bromo-7-methylquinolin-6-yl trifluoromethanesulfonate | 0.62 mmol, 230 mg | FC(S(=O)(=O)OC=1C(=C2C=CC=NC2=CC1C)Br)(F)F | C11H7BrF3NO3S
reactant | tributyl(vinyl)stannane | 0.68 mmol, 200 μL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | lithium chloride | 1.86 mmol, 78 mg | [Cl-].[Li+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 43 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-7-methyl-6-vinylquinoline | BrC1=C2C=CC=NC2=CC(=C1C=C)C | C12H10BrN
